US07407960B2
To a solution of 2-amino-4-methoxyphenol (1 g, 7.1 mmol), a compound of formula (j) in 20 mL MeOH was added (2,4-dichlorophenyl)formaldehyde (1.2 g, 7.1 mmol), a compound of formula (k). The mixture was heated at 45° C. for 12 hours. The mixture was concentrated under reduced pressure and the residue was dissolved in 50 mL dichloromethane. To the solution was added DDQ (1.7 g, 7.8 mmol), and the mixture was allowed to stir at room temperature for 30 minutes. The reaction mixture was then diluted with an additional 30 mL of dichloromethane and washed sequentially with saturated NaHCO3 (2×50 mL) and brine. The organic layer was separated, dried over MgSO4 and concentrated under reduced pressure to yield 2-(2,4-dichlorophenyl)-5-methoxybenzoxazole, a compound of formula (l), which was purified using flash column chromatography.

reactant | 2-amino-4-methoxyphenol | 7.1 mmol, 1 g | NC1=C(C=CC(=C1)OC)O | C7H9NO2
reactant | (2,4-dichlorophenyl)formaldehyde | 7.1 mmol, 1.2 g | ClC1=C(C=CC(=C1)Cl)C=O | C7H4Cl2O
reactant | DDQ | 7.8 mmol, 1.7 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
solvent | MeOH | 20 mL | CO | CH4O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 2-(2,4-dichlorophenyl)-5-methoxybenzoxazole | ClC1=C(C=CC(=C1)Cl)C=1OC2=C(N1)C=C(C=C2)OC | C14H9Cl2NO2
